US07875643B2
Preparation 4: (1S,5R)-3-(3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}propyl)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane
A mixture of (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (150 mg, 0.6 mmol), [(3-bromopropyl)oxy](1,1-dimethylethyl)dimethylsilane (233 mg, 0.92 mmol), triethylamine (185 mg, 1.83 mmol) and Nal (20 mg) in THF (2 mL) was stirred at r.t. for 20 h. The reaction mixture was concentrated under vacuum, water was added and the aqueous phase was extracted with EtOAc. The organic phase was dried over Na2SO4 and filtered. The filtrate was concentrated under vacuum and the crude was purified by column chromatography (eluting with EtOAc/cyclohexane 3/7) to give 245 mg of the title compound.

reactant | (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 0.6 mmol, 150 mg | FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CNC[C@@H]2C1 | C12H11F4N
reactant | [(3-bromopropyl)oxy](1,1-dimethylethyl)dimethylsilane | 0.92 mmol, 233 mg | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | triethylamine | 1.83 mmol, 185 mg | C(C)N(CC)CC | C6H15N
reactant | Nal | 20 mg | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1S,5R)-3-(3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}propyl)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 245 mg | CC(C)(C)[Si](OCCCN1C[C@]2(C[C@H]2C1)C1=C(C=C(C=C1)C(F)(F)F)F)(C)C | C21H31F4NOSi
